US06649611B2
(2R, 5S)-4-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester
To a solution of (2R, 5S)-5-chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoic acid (0.10 g, 0.212 mmol) in dichloromethane (4 ml) was added 4-dimethylaminopyridine (0.039 g, 0.318 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.061 g, 0.318 mmol) and tert-butyl 1-piperazinecarboxylate (0.041 g 0.222 mmol). The resulting mixture was stirred overnight at ambient temperature. It was then diluted with dichloromethane and washed with brine. The organics were dried over magnesium sulfate, filtered and concentrated to give a clear oil. Chromatography on silica gel gave the title compound (0.110 g, 85% yield).

reactant | (2R, 5S)-5-chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoic acid | 0.212 mmol, 0.10 g | ClC=1C=CC(=C(C(=O)O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C22H24ClFN2O4
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.318 mmol, 0.061 g | Cl.CN(CCCN=C=NCC)C
reactant | tert-butyl 1-piperazinecarboxylate | 0.222 mmol, 0.041 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.318 mmol, 0.039 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (2R, 5S)-4-(5-Chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzoyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.110 g, 85% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=C(C=CC(=C1)Cl)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C)=O | C31H40ClFN4O5
